data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][OH+:21]C(CC1=CC=C(C=C1)O)(C2=C(C=C(C=C2O)O)O)N.[OH2:10].CCOCC.OS(=O)(=O)[O-]>>[H:20][OH2+:10].C1=CC(=CC=C1CC(C2=C(C=C(C=C2O)O)O)(N)[OH:21])O.CCOCC.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][OH2+:21].C=CC(=[N:10]C1CCCCC1)O>>[H:20][N+:10](=C(C=C)O)C1CCCCC1.[OH2:21] 10=20;20,21=21
[H:20][OH+:21]C(CC)C=CC.[OH2:10]>>[H:20][OH2+:10].CCC(C=CC)[OH:21] 10=20;20,21=21
C1=C[C-:10]([C:20](C=C1)(O)[Cl:21])[N+](=O)[O-]>>C1=C[C:10](=[C:20](C=C1)O)[N+](=O)[O-].[Cl-:21] 10=20;20,21=21
[H:10][Al-:11](CC(C)C)(CC(C)C)[O+:21]=[C:20](C)OCC>>[H:10][C:20](C)(OCC)[O:21][Al:11](CC(C)C)CC(C)C 10,11=10,20;20,21=21
C[CH2:20][O:21][P+:22](C)(C)C.[N-:10]=[N+]=[N-]>>C[CH2:20][N:10]=[N+]=[N-].C[P:22](=[O:21])(C)C 10=20;20,21=21,22
[H:20][CH:21]([C:22](=[O:23])CC(=O)OC)C(=O)OC.C1=CC=[N:10]C=C1.C(C=O)Cl.O>>[H:20][N+:10]1=CC=CC=C1.COC(=O)C[C:22](=[CH:21]C(=O)OC)[O-:23].C(C=O)Cl.O 10=20;22,23=23;20,21=21,22
[H:10][C:11]1(CCCCC1C)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCCCC1C.CC(C)[O-] 10,11=10,20;20,21=21;12=11
C[C:20]1(OCCC(=O)[O:21]1)[O-:10]>>C[C:20](=[O:10])OCCC(=O)[O-:21] 10=20;20,21=21
CCC(C)[O-:10].CC1=CC=C(C=C1)[S:20](=O)(=[O:21])Cl>>CCC(C)[O:10][S:20](=O)(C1=CC=C(C=C1)C)([O-:21])Cl 10=20;20,21=21
CC([CH:20](C)[Br:21])Br.[OH-:10]>>C[CH:20](C(C)Br)[OH:10].[Br-:21] 10=20;20,21=21
C[C:20]1(C[OH+:21]1)C.[OH2:10]>>C[C:20](C)(C[OH:21])[OH2+:10] 10=20;20,21=21
[Li-:10]1[N+:11](C2CCCC2C(=[O+]1)OC)(C(C)C)C(C)C.[Br-]>>[Li:10][O+]=C(C1CCCC1[N:11](C(C)C)C(C)C)OC.[Br-] 10,11=11
CC1CC[CH:20]2[CH:21]1[C:22](=[O+:23][Zn]I)C2.[I-:10].C[Si](C)(C)I>>CC1CC[CH:20](C[C:22](=[CH:21]1)[O:23][Zn]I)[I:10].C[Si](C)(C)I 10=20;22,23=23;20,21=21,22
C[C:20](=[O:21])OC.[C-:10]#N>>C[C:20]([C:10]#N)([O-:21])OC 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.C1=CC=C(C=C1)C(=O)N[NH2+]C(C2=CC=C(C=C2)Br)[O-:10]>>[H:20][O:10]C(C1=CC=C(C=C1)Br)[NH2+]NC(=O)C2=CC=CC=C2.C(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21
C1C(=O)O[Mg:20][NH+]1CC(=O)[O-:10].O>>C1C(=O)O[Mg-:20]2[NH+]1CC(=O)[O:10]2.O 10=20,
[H:20][O:21]S(=O)(=O)O.CCNCC=C[O-:10]>>[H:20][O:10]C=CCNCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
CC[OH:10].C[S+:20](C)OS(=O)(=O)[O-]>>CC[OH+:10][S:20](C)(C)OS(=O)(=O)[O-] 10=20,
[H:20][O:21]C.C(CC[O-:10])CC(=O)O>>[H:20][O:10]CCCCC(=O)O.C[O-:21] 10=20;20,21=21
C[OH:10].CO[C:20](=[NH2+:21])OC>>C[OH+:10][C:20]([NH2:21])(OC)OC 10=20;20,21=21
[H:20][N+:21]1(CC2CC(C1)C=C(C2)C3=CC=CN=C3)CO.C1C2CC(=CC1C[NH:10]C2)C3=CC=CN=C3.C(=O)[O-]>>[H:20][NH+:10]1CC2CC(C1)C=C(C2)C3=CC=CN=C3.C1C2CC(=CC1C[N:21](C2)CO)C3=CC=CN=C3.C(=O)[O-] 10=20;20,21=21
CC=C[CH2:20][I:21].[OH-:10]>>CC=C[CH2:20][OH:10].[I-:21] 10=20;20,21=21
[B:20](F)(F)F.CC(C)(C)[Si](C)(C)OCC=[O:10]>>[B-:20]([O+:10]=CCO[Si](C)(C)C(C)(C)C)(F)(F)F 10=20,
CC(C)(C)[Si-:10](C)(C)(OCCC1CC=CC1O)[Cl:11].C1=CC=[NH+]C=C1>>CC(C)(C)[Si:10](C)(C)OCCC1CC=CC1O.[Cl-:11].C1=CC=[NH+]C=C1 10,11=11
[B-](OC(=[O:10])C)(F)(F)F.CC[C+](C(=O)C)C(C)(C)[Si:20](C)(C)C>>[B-](OC(=[O+:10][Si-:20](C)(C)(C)C(C)(C)[C+](CC)C(=O)C)C)(F)(F)F 10=20,
CC1=CC=C(C=C1)[C:20](=[O:21])O[Si](C)(C)C.C[Si](C)(C)[CH-:10][P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3>>CC1=CC=C(C=C1)[C:20]([CH:10]([Si](C)(C)C)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)([O-:21])O[Si](C)(C)C 10=20;20,21=21
C1CCC(C(C1)C[NH2:10])O.[N:20]#[O+:21].O.[Cl-]>>C1CCC(C(C1)C[NH2+:10][N:20]=[O:21])O.O.[Cl-] 10=20;20,21=21
C1=C(C=C(C(=C1Br)O)Br)C[NH+:21]2C(=C3C(=N[CH:20]2[O-:10])N(C(=O)N3)C4C(C(C(O4)CO)O)O)N.[OH-].[Br-]>>C1=C(C=C(C(=C1Br)O)Br)C[NH:21]C(=C2C(=N[CH:20]=[O:10])N(C(=O)N2)C3C(C(C(O3)CO)O)O)N.[OH-].[Br-] 10=20;20,21=21
[B:20](F)(F)F.CS(=O)(=O)OCC1C[O:10]1.CC#N>>[B-:20]([O+:10]1CC1COS(=O)(=O)C)(F)(F)F.CC#N 10=20,
C[S-:10].C[S:20][I:21]>>C[S:10][S:20]C.[I-:21] 10=20;20,21=21
[H:20][O+:21](C(=O)CC)C(C)([O-])OC(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CCC(=O)[O:21]C(C)([O-])OC(=O)C 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C(C(C(C(C(C=[O:10])O)O)O)O)O>>[H:20][O+:10]=CC(C(C(C(CO)O)O)O)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]C(=O)C1=C(C=CC=C1OC)CC2CC(CC(O2)CC(CC=C)O)O[Si](C)(C)C(C)(C)C.C1CCC(CC1)N=C=[N:10]C2CCCCC2.CN(C)C1=CC=[NH+]C=C1>>[H:20][N+:10](=C=NC1CCCCC1)C2CCCCC2.CC(C)(C)[Si](C)(C)OC1CC(OC(C1)CC(CC=C)O)CC2=C(C(=CC=C2)OC)C(=O)[O-:21].CN(C)C1=CC=[NH+]C=C1 10=20;20,21=21
C[C:11](=[CH2:10])[O-:12].[CH2:20]=[CH:21][C:22]#[N:23]>>C[C:11](=[O:12])[CH2:10][CH2:20][CH:21]=[C:22]=[N-:23] 10,11=10,20;12=11;22,23=23;20,21=21,22
C[OH:10].C1=CC=C(C=C1)[C:20](=[OH+:21])N>>C[OH+:10][C:20](C1=CC=CC=C1)(N)[OH:21] 10=20;20,21=21
[H:20][CH:21](C)[N+](=O)[O-].CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.C[CH-:21][N+](=O)[O-] 10=20;20,21=21
C[C:20](C)([OH:10])[OH+:21]C1=CC=C2C(C1)(CC(=O)N2CCC3=CC(=C(C=C3)OC)OC)C(=O)OC.C(=O)(C(F)(F)F)[O-]>>C[C:20](=[OH+:10])C.COC1=C(C=C(C=C1)CCN2C(=O)CC3(C2=CC=C(C3)[OH:21])C(=O)OC)OC.C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
[H:20][OH:21].CCOC(=O)C(=N[N-:10]C1=C2C(=CC=NC2=C(C=C1)OC)C3=C(C=CC=C3)F)C.CC(=O)O.[Cl-]>>[H:20][N:10](C1=C2C(=CC=NC2=C(C=C1)OC)C3=C(C=CC=C3)F)N=C(C)C(=O)OCC.[OH-:21].CC(=O)O.[Cl-] 10=20;20,21=21
